US08541588B2
4-[2-(3-amino-1H-pyrazol-4-yl)-4-chlorophenoxy]-5-chloro-2-fluoro-N-pyridazin-3-ylbenzenesulfonamide
The title compound was prepared according to the procedure in Example 1036 using 4-{2-[3-amino-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]-4-chlorophenoxy}-5-chloro-2-fluoro-N-(methoxymethyl)-N-pyridazin-3-ylbenzenesulfonamide and 4-{2-[3-amino-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]-4-chlorophenoxy}-5-chloro-2-fluoro-N-[(3E)-2-(methoxymethyl)pyridazin-3(2H)-ylidene]benzenesulfonamide (Preparation 891).

reactant | 4-{2-[3-amino-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]-4-chlorophenoxy}-5-chloro-2-fluoro-N-(methoxymethyl)-N-pyridazin-3-ylbenzenesulfonamide | NC1=NN(C=C1C1=C(OC2=CC(=C(C=C2Cl)S(=O)(=O)N(C=2N=NC=CC2)COC)F)C=CC(=C1)Cl)C1OCCCC1 | C26H25Cl2FN6O5S
reactant | 4-{2-[3-amino-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]-4-chlorophenoxy}-5-chloro-2-fluoro-N-[(3E)-2-(methoxymethyl)pyridazin-3(2H)-ylidene]benzenesulfonamide | NC1=NN(C=C1C1=C(OC2=CC(=C(C=C2Cl)S(=O)(=O)/N=C\2/N(N=CC=C2)COC)F)C=CC(=C1)Cl)C1OCCCC1 | C26H25Cl2FN6O5S
product | 4-[2-(3-amino-1H-pyrazol-4-yl)-4-chlorophenoxy]-5-chloro-2-fluoro-N-pyridazin-3-ylbenzenesulfonamide | NC1=NNC=C1C1=C(OC2=CC(=C(C=C2Cl)S(=O)(=O)NC=2N=NC=CC2)F)C=CC(=C1)Cl | C19H13Cl2FN6O3S
